US08003647B2
1-Methoxy-2-methyl-4-nitrobenzene
To a solution of 1-hydroxy-2-methyl-4-nitrobenzene (1.0 g) in N,N-dimethylformamide (10 mL) were added potassium carbonate (1.8 g) and iodomethane (1.3 g) at room temperature and this mixture was stirred at the same temperature for 24 hours. This reaction mixture was poured into water and this resulting mixture was extracted with ethyl acetate. This organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (0.95 g).

reactant | 1-hydroxy-2-methyl-4-nitrobenzene | 1.0 g | OC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H7NO3
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.3 g | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-Methoxy-2-methyl-4-nitrobenzene | 0.95 g | COC1=C(C=C(C=C1)[N+](=O)[O-])C | C8H9NO3
